US07968573B2
A mixed solution of 1.3 g of 6-chloro-7-methyl-1H-indole-2,3-dione and 50 ml of a 2N aqueous sodium hydroxide solution was added dropwise to 2 g of aqueous hydrogen peroxide (30%), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was adjusted to pH 4 by an addition of 2N hydrochloric acid, and a deposited precipitate was collected by filtration to obtain 0.6 g of 2-amino-4-chloro-3-methylbenzoic acid of the formula:

reactant | 6-chloro-7-methyl-1H-indole-2,3-dione | 1.3 g | ClC1=CC=C2C(C(NC2=C1C)=O)=O | C9H6ClNO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrogen peroxide | 2 g | OO | H2O2
reactant | hydrochloric acid | 2N | Cl | ClH
product | 2-amino-4-chloro-3-methylbenzoic acid | 0.6 g | NC1=C(C(=O)O)C=CC(=C1C)Cl | C8H8ClNO2
